US05883255
(±)-7-[1-[[(1-Imidazolyl)acetyl]oxy]propyl]-8-methylindolizino[1,2-b]quinolin-9(11H)-one Hydrochloride
The title compound was prepared according to the procedure in Example 13 except using (±)-7-[1-[(iodoacetyl)oxy]propyl]-8-methylindolizino[1,2-b]quinolin-9(11H)-one and imidazole. 1H NMR (CDCl3 /MeOH-d4) d 9.17 (s, 1H), 8.60 (s, 1H), 8.34 (d, 1H), 8.04 (d, 1H), 7.95 (m, 1H), 7.75 (m, 1H), 7.61 (s, 1H), 7.51 (br s, 1H), 7.41 (br s, 1H), 5.95 (m, 1H), 5.65 (d, 1H), 5.42 (d, 1H), 5.33 (s, 2H), 2.36 (s, 3H), 2.1-1.9 (m, 2H), 1.07 (t, 3H). Anal. Calcd for C24H22N4O3.2 HCl.11/4 H2O: C, 53.68; H, 5.35; N, 10.43. Found: C, 53.52; H, 5.58; N, 10.29.

reactant | (±)-7-[1-[(iodoacetyl)oxy]propyl]-8-methylindolizino[1,2-b]quinolin-9(11H)-one | ICC(=O)OC(CC)C1=C(C(N2CC=3C(=NC4=CC=CC=C4C3)C2=C1)=O)C | C21H19IN2O3
reactant | imidazole | N1C=NC=C1 | C3H4N2
reactant | HCl | Cl | ClH
solvent | H2O | O | H2O
product | (±)-7-[1-[[(1-Imidazolyl)acetyl]oxy]propyl]-8-methylindolizino[1,2-b]quinolin-9(11H)-one Hydrochloride | Cl.N1(C=NC=C1)CC(=O)OC(CC)C1=C(C(N2CC=3C(=NC4=CC=CC=C4C3)C2=C1)=O)C | InChI=1S/C24H22N4O3.ClH/c1-3-21(31-22(29)13-27-9-8-25-14-27)18-11-20-23-17(12-28(20)24(30)15(18)2)10-16-6-4-5-7-19(16)26-23;/h4-11,14,21H,3,12-13H2,1-2H3;1H
